US07253286B2
N-(4-(6-Cyano-7-benzyloxy-4-quinolyl)oxy-2-fluorophenyl)-N′-(2,4-difluorophenyl)urea
N-(2,4-Difluorophenyl)-N′-(2-fluoro-4-hydroxyphenyl)urea (227 mg, 0.8058 mmol) and 4-chloro-6-cyano-7-benzyloxyquinoline (250 mmol, 0.8482 mmol) were used for reaction in the same manner as the second method in Example 86, and after cooling, extraction and washing with water, the solvent was distilled off under reduced pressure and the obtained crystals were suspended in diethyl ether, washed and filtered. They were then dissolved in tetrahydrofuran and filtered with silica gel, and the solvent was distilled off under reduced pressure. These crystals were then suspended in diethyl ether, washed with water and filtered, and then washed with diethyl ether and dried by aspiration to obtain the title compound (70 mg, 0.1295 mmol, 16.07%) as light brown crystals.

reactant | N-(2,4-Difluorophenyl)-N′-(2-fluoro-4-hydroxyphenyl)urea | 0.8058 mmol, 227 mg | FC1=C(C=CC(=C1)F)NC(=O)NC1=C(C=C(C=C1)O)F | C13H9F3N2O2
reactant | 4-chloro-6-cyano-7-benzyloxyquinoline | 250 mmol | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCC1=CC=CC=C1 | C17H11ClN2O
product | N-(4-(6-Cyano-7-benzyloxy-4-quinolyl)oxy-2-fluorophenyl)-N′-(2,4-difluorophenyl)urea | 0.1295 mmol, 70 mg, 16.07% | C(#N)C=1C=C2C(=CC=NC2=CC1OCC1=CC=CC=C1)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=C(C=C1)F)F)F | C30H19F3N4O3
